US06358972B1
5-Hydroxy-3-(1-Methylpiperidin-4-yl)indole
A solution of 5-methoxy-3-(1-methylpiperidin-4-yl)indole (2.30 g, 9.4 mmol) in 30 mL of 30% hydrobromic acid in acetic acid was heated in a sealed tube at 105° C. for 72 hours. The reaction mixture was cooled to room temperature and concentrated in vacuo. The residue was dissolved in water, and the pH was adjusted to about 13 with 5N aqueous sodium hydroxide. The mixture was concentrated in vacuo, and the residue was chromatographed on a silica gel column, eluting with 20% 2M ammonia in methanol/dichloromethane. After concentrating in vacuo, the residue was dissolved in methanol, charged with Dowex® 50X8-200 ion-exchange resin (25 g) and stirred overnight at room temperature. The mixture was filtered, and the resin was washed with water and methanol. The Dowex® resin was stirred overnight in 100 mL of 2M ammonia in methanol and filtered. The filtrate was concentrated in vacuo to provide 1.84 g (85%) of the title compound, which was used without further purification in Preparation 17. EA calculated for C13H17N3O: C, 67.53; H, 7.36; N, 18.18. Found: C, 67.24; H, 7.37; N, 18.38.

reactant | 5-methoxy-3-(1-methylpiperidin-4-yl)indole | 9.4 mmol, 2.30 g | COC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C15H20N2O
solvent | hydrobromic acid | 30 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-Hydroxy-3-(1-Methylpiperidin-4-yl)indole | 1.84 g, 85% | OC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H18N2O
